US04501901
A. N-t-Butoxycarbonyl-trans-4-hydroxy-L-proline
4-Hydroxyproline (31.2 g. 0.238 mole) was dissolved in sodium hydroxide (9.5 g) in water (75 ml) and t-butanol (50 ml) and to that was added with stirring and ice-cooling, a solution of di-tert-butyl-dicarbonate (57.1 g, 0.262 mole) in t-butanol (50 ml) and the stirring was continued overnight at ambient temperature. Water (125 ml) was added to the reaction mixture and was extracted with hexanes (2×100 ml). The aqueous layer was acidified with KHSO4 (~35 g in 150 ml H2O) in an ice bath to a pH~2 or 3. It was extracted with ethylacetate (4×100 ml) and the combined organic phase was washed with brine and dried over anhydrous sodium sulfate. Removal of the solvent on a rotavap gave a glassy solid in 100% yield, m.p. 124° C. This material was used for the next step without any further purification.

reactant | 4-Hydroxyproline | 0.238 mole, 31.2 g | OC1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | di-tert-butyl-dicarbonate | 0.262 mole, 57.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | sodium hydroxide | 9.5 g | [OH-].[Na+]
solvent | water | 75 ml | O | H2O
solvent | t-butanol | 50 ml | C(C)(C)(C)O | C4H10O
solvent | Water | 125 ml | O | H2O
solvent | t-butanol | 50 ml | C(C)(C)(C)O | C4H10O
product | N-t-Butoxycarbonyl-trans-4-hydroxy-L-proline | 100% yield | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)O | C10H17NO5
